US07667041B2
IPEA (0.58 mL), EDC (0.38 g) and HOBT (0.27 g) were added to a suspension of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate (300 mg) and 5-fluoroindan-2-ylamine (CAS #2340-06-9, 151 mg) in DMF (10 mL) at room temperature, and the reaction solution was stirred at room temperature for 14 hours. A saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The organic layer was washed sequentially with a saturated aqueous solution of ammonium chloride, water and a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (elution solvent:ethyl acetate-methanol system) to obtain (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (5-fluoroindan-2-yl)amide (318 mg). Sodium hydride (containing mineral oil at 40%, 60 mg) was added to a solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (5-fluoroindan-2-yl)amide (318 mg) in DMF (6 mL) at room temperature, and the reaction solution was stirred at room temperature for 30 minutes. A saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The organic layer was washed sequentially with a saturated aqueous solution of ammonium chloride, water and a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system) to obtain (E)-1-(5-fluoroindan-2-yl)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)piperidin-2-one as a racemate (170 mg). The compound (10 mg) was fractionated using CHIRALPAK™ AD-H manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm: mobile phase: ethanol) to obtain the title optically active substance with a retention time of 9.1 minutes (Example 991, 4 mg; >95% ee) and the title optically active substance with a retention time of 9.8 minutes (Example 992, 4 mg; >94% ee). The physical properties of the compounds are as follows.

reactant | IPEA | 0.58 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 0.27 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate | 300 mg | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | 5-fluoroindan-2-ylamine | 151 mg | FC=1C=C2CC(CC2=CC1)N | C9H10FN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 0.38 g
product | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (5-fluoroindan-2-yl)amide | 318 mg | FC=1C=C2CC(CC2=CC1)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H27ClFN3O2
